US04565659
2-methylaminoethanol phosphocholine
8 g of N-benzyloxy carbonyl-N-methyl-2-aminoethanol phosphocholine are dissolved in 60 ml of dioxane and 15 ml of water; the solution is mixed with 0.8 g of 10% palladium active carbon and the reaction mixture hydrogenated with hydrogen. After the H2 -absorption has terminated, the solution is filtered and the filtrate reduced in vacuo to dryness.

reactant | N-benzyloxy carbonyl-N-methyl-2-aminoethanol phosphocholine | 8 g | P(=O)(O)(O)OCC[N+](C)(C)C.C(C1=CC=CC=C1)ON(CC(O)=C=O)C
reactant | hydrogen | [H][H] | H2
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
solvent | water | 15 ml | O | H2O
catalyst | palladium | 0.8 g | [Pd] | Pd
product | 2-methylaminoethanol phosphocholine | P(=O)(O)(O)OCC[N+](C)(C)C.CNCCO | InChI=1S/C5H14NO4P.C3H9NO/c1-6(2,3)4-5-10-11(7,8)9;1-4-2-3-5/h4-5H2,1-3H3,(H-,7,8,9);4-5H,2-3H2,1H3/p+1
